*Waveform: 1110
vclk Clk 0 pulse    (0  vdd_value    5n     0.1n    0.1n    5000n     5001n)     
vd  Data 0 pulse    (0  vdd_value    5n     0.1n    0.1n    5000n     5001n)   
vres Reset 0 pulse  (0  vdd_value    5n     0.1n    0.1n    5000n     5001n)   
vpeak PEAK 0 pulse  (-0.2  0.8         5n     0.1n    0.1n    500000n   500001n)